US08895582B2
To a solution of (S)-tert-butyl 1-azido-3-(benzyloxy)propan-2-yl(methyl)carbamate (4 g, 11.66 mmol) in EtOH (100 mL) and AcOH (10 mL) was added Pd/C (10%, 1.0 g). The resulting mixture was transferred to an autoclave and charged with hydrogen (45 psi). The reaction mixture was stirred at RT for 1 h and filtered. The filtrate was concentrated to give (S)-tert-butyl 1-amino-3-(benzyloxy)propan-2-yl(methyl)carbamate, which was used without further purification. LRMS (M+Na+) m/z 317.2.

reactant | (S)-tert-butyl 1-azido-3-(benzyloxy)propan-2-yl(methyl)carbamate | 11.66 mmol, 4 g | N(=[N+]=[N-])C[C@@H](COCC1=CC=CC=C1)N(C(OC(C)(C)C)=O)C | C16H24N4O3
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | (S)-tert-butyl 1-amino-3-(benzyloxy)propan-2-yl(methyl)carbamate | NC[C@@H](COCC1=CC=CC=C1)N(C(OC(C)(C)C)=O)C | C16H26N2O3
